US09340507B2
1-Isopropyl-2-methyl-4-oxo-2′-trifluoromethyl-1,4-dihydro-[3,4]bipyridinyl-5-carboxylic acid 4-methanesulfonyl-benzylamide
To a solution of 5-bromo-1-isopropyl-6-methyl-4-oxo-1,4-dihydro-pyridine-3-carboxylic acid 4-methanesulfonyl-benzylamide (preparation 5, 24 mg, 0.054 mmol), 2-(trifluoromethyl)pyridine-4-boronic acid (13 mg, 0.068 mmol), 1,1′-[bis(diphenylphosphino)ferrocene]dichloropalladium(II) (5 mg, 0.007 mmol) in acetonitrile (0.15 mL) is added 2 M aqueous K2CO3 solution (0.055 mL, 0.11 mmol). After stirring for 18 h at 75° C., the reaction mixture is filtered and purified by preparative reversed-phase HPLC (XBridge, gradient of methanol in water, 0.3% NH4OH, 60° C.). Yield: 4 mg (15% of theory); ESI mass spectrum: [M+H]+=508; Retention time HPLC: 0.88 min (Z003_001).

reactant | 5-bromo-1-isopropyl-6-methyl-4-oxo-1,4-dihydro-pyridine-3-carboxylic acid 4-methanesulfonyl-benzylamide | 0.054 mmol, 24 mg | CS(=O)(=O)C1=CC=C(CNC(=O)C2=CN(C(=C(C2=O)Br)C)C(C)C)C=C1 | C18H21BrN2O4S
reactant | 2-(trifluoromethyl)pyridine-4-boronic acid | 0.068 mmol, 13 mg | FC(C1=NC=CC(=C1)B(O)O)(F)F | C6H5BF3NO2
reactant | K2CO3 | 0.11 mmol, 2 M, 0.055 mL | C(=O)([O-])[O-].[K+].[K+]
solvent | acetonitrile | 0.15 mL | C(C)#N | C2H3N
product | 1-Isopropyl-2-methyl-4-oxo-2′-trifluoromethyl-1,4-dihydro-[3,4]bipyridinyl-5-carboxylic acid 4-methanesulfonyl-benzylamide | CS(=O)(=O)C1=CC=C(CNC(=O)C=2C(C(=C(N(C2)C(C)C)C)C2=CC(=NC=C2)C(F)(F)F)=O)C=C1 | C24H24F3N3O4S
